US09334290B2
A solution of ethyl 2-(5-bromo-8-carbamoyl-6-fluoro-9H-carbazol-2-yl)acetate (500 mg, 1.27 mmol) in THF (10 mL) was treated with lithium borohydride (139 mg, 6.36 mmol) and stirred at room temperature overnight. The mixture was treated with saturated aqueous NH4Cl and stirred for 15 min. The mixture was diluted with water and extracted twice with EtOAc. The combined organic phases were dried and concentrated, and the residue was purified by column chromatography on silica gel (40 g), eluting with EtOAc-hexanes (gradient from 30-100%), to provide 4-bromo-3-fluoro-7-(2-hydroxyethyl)-9H-carbazole-1-carboxamide as a white solid (310 mg, 69% yield). Mass spectrum m/z 351, 353 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 11.58 (s, 1H), 8.50 (d, J=8.4 Hz, 1H), 8.24 (br. s., 1H), 7.98 (d, J=10.3 Hz, 1H), 7.72-7.63 (m, 2H), 7.15 (dd, J=8.4, 1.3 Hz, 1H), 4.68 (t, J=5.3 Hz, 1H), 3.73-3.64 (m, 2H), 2.90 (t, J=7.0 Hz, 2H).

reactant | ethyl 2-(5-bromo-8-carbamoyl-6-fluoro-9H-carbazol-2-yl)acetate | 1.27 mmol, 500 mg | BrC1=C2C=3C=CC(=CC3NC2=C(C=C1F)C(N)=O)CC(=O)OCC | C17H14BrFN2O3
reactant | lithium borohydride | 6.36 mmol, 139 mg | [BH4-].[Li+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-bromo-3-fluoro-7-(2-hydroxyethyl)-9H-carbazole-1-carboxamide | 310 mg, 69% yield | BrC1=C(C=C(C=2NC3=CC(=CC=C3C12)CCO)C(=O)N)F | C15H12BrFN2O2
